US05696112
4-(2-Chloro-4-nitrobenzoyl)-8-hydroxy-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine
To a solution of 1.0 g of 4-(2-chloro-4-nitrobenzoyl)-4,5,6,7-tetrahydro-8H-thieno[3,2-b]azepin-8-one in 10 ml of tetrahydrofuran is added 1 ml of ethanol and the mixture cooled to 0° C. To the mixture is added 0.129 g of sodium borohydride in portions and the mixture is stirred at 0° C. for 1 hour. To the mixture is added slowly 4.2 ml of saturated ammonium chloride solution at 0° C. After stirring at room temperature for 10 minutes, the solvent is removed under vacuum and 80 ml of ethyl acetate added to the residue. The mixture is washed with 20 ml each of H2O, 2N citric acid, 1M NaHCO3 and brine. The organic layer is dried (Na2SO4) and filtered through a thin pad of hydrous magnesium silicate. The filtrate is concentrated under vacuum to give the product as a white glass.

reactant | 4-(2-chloro-4-nitrobenzoyl)-4,5,6,7-tetrahydro-8H-thieno[3,2-b]azepin-8-one | 1.0 g | ClC1=C(C(=O)N2C3=C(C(CCC2)=O)SC=C3)C=CC(=C1)[N+](=O)[O-] | C15H11ClN2O4S
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | sodium borohydride | 0.129 g | [BH4-].[Na+]
reactant | ammonium chloride | 4.2 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(2-Chloro-4-nitrobenzoyl)-8-hydroxy-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | ClC1=C(C(=O)N2C3=C(C(CCC2)O)SC=C3)C=CC(=C1)[N+](=O)[O-] | C15H13ClN2O4S
